US03935261
A solution of sodium borohydride (0.18 g., 0.0046 mole) in 0.2N aqueous sodium hydroxide (1.8 ml.) was added dropwise to a solution of 7-[3-methyl-2-oxo-5-(3-oxo-1-octenyl)cyclopentyl]heptanoic acid (0.5 g., 0.0014 mole) in ethanol (15 ml.) and N aqueous sodium hydroxide (1.4 ml., 0.0014 mole). The resulting solution was stirred for 1 day, and then the ethanol was removed in vacuo. A small quantity of water was added, and the solution was extracted twice with diethyl ether (to remove non-acidic material). The aqueous solution was covered with a layer of diethyl ether and acidified to pH 1 by the dropwise addition of concentrated hydrochloric acid, cooling the solution to about 10°C. The ether layer was separated and the aqueous layer extracted twice more with diethyl ether. The combined ether extracts were dried over magnesium sulphate and evaporated to give 7-[2-hydroxy-5-(3-hydroxy-1-octenyl)-3-methylcyclopentyl]heptanoic acid (0.4 g., 80%) which required no further purification. N.M.R. (approximately 10% solution in deuterochloroform), 0.84 δ (triplet J=5c/s, terminal CH3), 0.95 δ (doublet J=6c/s, ring methyl), 1.31 δ (multiplet, chain CH2), 2.24 δ (triplet J=6c/s, CH2CO), 3.68 and 3.98 δ (overlapping multiplets, HCOH), 5.39 δ (multiplet CH=CH), 5.77 δ (singlet OH and COOH). (Found: C, 71.1; H, 10.7. C21H38O4 requires C, 71.2; H, 10.8%).

reactant | sodium borohydride | 0.0046 mole, 0.18 g | [BH4-].[Na+]
reactant | 7-[3-methyl-2-oxo-5-(3-oxo-1-octenyl)cyclopentyl]heptanoic acid | 0.0014 mole, 0.5 g | CC1C(C(C(C1)C=CC(CCCCC)=O)CCCCCCC(=O)O)=O | C21H34O4
solvent | sodium hydroxide | 0.2N, 1.8 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 0.0014 mole, 1.4 ml | [OH-].[Na+]
product | 7-[2-hydroxy-5-(3-hydroxy-1-octenyl)-3-methylcyclopentyl]heptanoic acid | 0.4 g, 80% | OC1C(C(CC1C)C=CC(CCCCC)O)CCCCCCC(=O)O | C21H38O4
